US08283353B2
4′-[(4-{trans-4-[(2-{[tert-butyl(dimethyl)silyl]oxy}prop-2-en-1-yl)oxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a solution (10 mL) of 4′-({2-methyl-5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.56 g) and diisopropylethylamine (0.36 mL) in methylene chloride was added tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.36 mL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.5 g, 72%).

reactant | 4′-({2-methyl-5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 10 mL, 0.56 g | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)[C@@H]2CC[C@H](CC2)OCC(C)=O)=N1 | C32H35N5O3
reactant | diisopropylethylamine | 0.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.36 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-[(4-{trans-4-[(2-{[tert-butyl(dimethyl)silyl]oxy}prop-2-en-1-yl)oxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.5 g, 72% | [Si](C)(C)(C(C)(C)C)OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)=C | C38H49N5O3Si
